US06335353B1
2-Methoxymethyl-3-benzyloxy-pyran-4(1H)-one
In an analogous procedure in the preparation of 2-methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one using 2-hydroxymethyl-3-benzyloxy-pyran-4(1H)-one (2.32 g, 10 mmol, 1 eq.) yielded the title compound as an orange oil (2.5 g, ˜100%). Further purification by column chromatography on silica gel (eluant: EtOAc) furnished the pure product as a bright yellow oil.

reactant | 2-methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one | COCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C15H16O4
reactant | 2-hydroxymethyl-3-benzyloxy-pyran-4(1H)-one | 10 mmol, 2.32 g, 1 eq. | OCC=1OC=CC(C1OCC1=CC=CC=C1)=O | C13H12O4
product | 2-Methoxymethyl-3-benzyloxy-pyran-4(1H)-one | 2.5 g, ~100% | COCC=1OC=CC(C1OCC1=CC=CC=C1)=O | C14H14O4
